US05977131
2-(1H-Pyrrolo[2,3-b]pyridin-3-ylmethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester.
A mixture of 254 mg (1.26 mM) of 3-Pyrrolidin-2-ylmethyl-1H-pyrrolo[2,3-b]pyridine and 302 mg (1.38 mM) of di-tert-butyl-dicarbonate (Aldrich) in 10 mL of dioxane was stirred at room temperature for 12 hours. TLC (10:1 CHCl3:CH3OH) indicated new product formation, and mass spectrum indicated m/e=302 (p+1). This solution was used directly in the next synthetic step.

reactant | 3-Pyrrolidin-2-ylmethyl-1H-pyrrolo[2,3-b]pyridine | 1.26 mM, 254 mg | N1C(CCC1)CC1=CNC2=NC=CC=C21 | C12H15N3
reactant | di-tert-butyl-dicarbonate | 1.38 mM, 302 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | CH3OH | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-(1H-Pyrrolo[2,3-b]pyridin-3-ylmethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)CC1=CNC2=NC=CC=C21 | C17H23N3O2
